US07442813B2
Preparation [4(R)-(2-Amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol (Compound 5)
Benzoic acid 4(R)-(2-amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester crude (1304 g) was stirred with NH3/MeOH (20 L, 2M) for 20 hours at room temperature. Excess ammonia was removed by sparging nitrogen gas through the reaction mixture. The volatiles were removed in vacuo to give a black syrup which was further purified by column chromatography (MeOH/DCM:25/1) to give crude final product (910 g). The crude product was crystallized from ethyl acetate/ethanol to give [4(R)-(2-Amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol (455 g, 41% yield from acetoxy-sugar).

reactant | Benzoic acid 4(R)-(2-amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester | NC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H](OC1)COC(C1=CC=CC=C1)=O)NC1CC1 | C19H20N6O4
solvent | NH3 MeOH | 2M, 20 L | N.CO
product | [4(R)-(2-Amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-yl]-methanol | 455 g, 41% yield | NC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H](OC1)CO)NC1CC1 | C12H16N6O3
